US05021413
4-(4-methylthiophenylacetyl)-3-(pyrrolidin-1-ylmethyl)thiomorpholine hydrochloride
The procedure described in Example 17 was repeated, but using 1.0 g of 3-(pyrrolidin-1-ylmethyl)thiomorpholine, 1.38 ml of triethylamine and 1.2 of 4-methylthiophenylacetyl chloride, to afford 1.38 g of the title compound, melting at 162°-166° C. (dec.).

reactant | 3-(pyrrolidin-1-ylmethyl)thiomorpholine | 1.0 g | N1(CCCC1)CC1NCCSC1 | C9H18N2S
reactant | 4-methylthiophenylacetyl chloride | CSC1=CC=C(C=C1)CC(=O)Cl | C9H9ClOS
solvent | triethylamine | 1.38 ml | C(C)N(CC)CC | C6H15N
product | 4-(4-methylthiophenylacetyl)-3-(pyrrolidin-1-ylmethyl)thiomorpholine hydrochloride | 1.38 g | Cl.CSC1=CC=C(C=C1)CC(=O)N1C(CSCC1)CN1CCCC1 | InChI=1S/C18H26N2OS2.ClH/c1-22-17-6-4-15(5-7-17)12-18(21)20-10-11-23-14-16(20)13-19-8-2-3-9-19;/h4-7,16H,2-3,8-14H2,1H3;1H
